US04544497
Step A3: Preparation of 4-n-butoxy-1-n-propylbicyclo(2,2,2)octane-2-one
A mixture of 4-acetyl-4-n-propylcyclohexanone (3.65 g, 0.02 mol), tri-butylorthoformate (13.91 g, 0.06 mol) and toluene-p-sulphonic acid monohydrate (0.30 g) in Analak (Trade Mark) butan-1-ol (25 ml) was stirred at room temperature for 60 h. The progress of the reaction was followed by glc. The reaction mixture was diluted with ether (200 ml), washed with aqueous sodium carbonate (2×50 ml, 10%) and with water (2×50 ml) and the ether layer was dried (MgSO4). Ether was removed and the residue was chromatographed on a neutral alumina column (1.5×30 cm) using light petroleum (bp, 40°-60° C.) as eluent. Five fractions were collected (20 ml each) and combined. The solvent was removed and the residue was distilled in a short-path distillation apparatus to give the required compound.

reactant | 4-acetyl-4-n-propylcyclohexanone | 0.02 mol, 3.65 g | C(C)(=O)C1(CCC(CC1)=O)CCC | C11H18O2
reactant | tri-butylorthoformate | 0.06 mol, 13.91 g | C(CCC)OC(OCCCC)OCCCC | C13H28O3
reactant | toluene-p-sulphonic acid monohydrate | 0.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | butan-1-ol | 25 ml | C(CCC)O | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-n-butoxy-1-n-propylbicyclo(2,2,2)octane-2-one | C(CCC)OC12CC(C(CC1)(CC2)CCC)=O | C15H26O2
